US06506901B2
1-(2,5-Difluoro-benzyl)-3-[4-(4-{[(2S)-3-(3-fluoro-4-hydroxy-phenoxy)-2-hydroxy-propylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-urea
N-(4-{[4-(aminomethyl)-1-piperidinyl]sulfonyl}phenyl)-N′-(2,5-difluoro-benzyl)urea formate (0.433 g, 1.00 mmol) was reacted with t-butyl(diphenyl)silyl 2-fluoro-4-[(2S)oxiranylmethoxy]phenyl ether (0.422 g, 1.00 mmol) according to example 37 to give the title compound (0.1 g, 0.16 mmol).

reactant | N-(4-{[4-(aminomethyl)-1-piperidinyl]sulfonyl}phenyl)-N′-(2,5-difluoro-benzyl)urea formate | 1.00 mmol, 0.433 g | C(=O)O.NCC1CCN(CC1)S(=O)(=O)C1=CC=C(C=C1)NC(=O)NCC1=C(C=CC(=C1)F)F
reactant | t-butyl(diphenyl)silyl 2-fluoro-4-[(2S)oxiranylmethoxy]phenyl ether | 1.00 mmol, 0.422 g | FC1=C(C=CC(=C1)OC[C@H]1OC1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C25H27FO3Si
product | 1-(2,5-Difluoro-benzyl)-3-[4-(4-{[(2S)-3-(3-fluoro-4-hydroxy-phenoxy)-2-hydroxy-propylamino]-methyl}-piperidine-1-sulfonyl)-phenyl]-urea | 0.16 mmol, 0.1 g | FC1=C(CNC(=O)NC2=CC=C(C=C2)S(=O)(=O)N2CCC(CC2)CNC[C@@H](COC2=CC(=C(C=C2)O)F)O)C=C(C=C1)F | C29H33F3N4O6S
